US08937091B2
2-(2-mercaptophenyl)aminoethylthiophenylketone 8392
Acetylthiophene (126 mg), aminothiophenol (125 mg), and paraformaldehyde (36 mg) were reacted in dioxane (0.2 ml) at 150° C. for 2 hours.

reactant | Acetylthiophene | 126 mg | C(C)(=O)C=1SC=CC1 | C6H6OS
reactant | aminothiophenol | 125 mg | NC1=C(C=CC=C1)S | C6H7NS
reactant | paraformaldehyde | 36 mg | C=O | CH2O
solvent | dioxane | 0.2 ml | O1CCOCC1 | C4H8O2
product | 2-(2-mercaptophenyl)aminoethylthiophenylketone | SC1=C(C=CC=C1)NCCC(=O)C=1SC=CC1 | C13H13NOS2
